US06590105B2
cis-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine
To a flask equipped with magnetic stirrer was added cis-N-benzyl-N-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]amine (700 mg, 1.33 mmol) and ethanol (30 ml). To the stirred solution was added palladium (10% w/w on activated carbon, 283 mg, 0.27 mmol) as a slurry in ethanol (5 ml). The reaction vessel was evacuated then placed under hydrogen. The reaction mixture was stirred vigorously under an atmosphere of hydrogen for 18 hr then filtered through a celite plug, washing with methanol (100 ml). The solvent was removed in vacuo affording the title compound (561 mg, 97%) as a colourless oil. δH (CDCl3) 0.01 (6H, s), 0.04 (6H, s), 0.78 (9H, s), 0.83 (9H, s), 1.21-1.55 (10H, m), 2.64 (1H, m), 3.05 (1H, m), 6.11 (1H, d), 6.22 (1H, dd), 6.84 (1H, d).

reactant | cis-N-benzyl-N-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]amine | 1.33 mmol, 700 mg | C(C1=CC=CC=C1)N[C@@H]1CC[C@@H](CC1)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C31H51NO2Si2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium | 0.27 mmol, 283 mg | [Pd] | Pd
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | cis-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine | 561 mg, 97% | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@H]1CC[C@H](CC1)N | C24H45NO2Si2
